US07872014B2
Iodomethane (24 mL, 382 mmol) and cesium carbonate (25 g, 76.4 mmol) were added to a solution of 4-fluoro-2-(hydroxymethyl)-6-[(phenylmethyl)oxy]phenol (9.5 g, 38.2 mmol) in DMF (125 mL). The mixture was stirred for 1 h at rt, and then water was added. The resulting aqueous mixture was extracted twice with ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (70% hexanes, 30% ethyl acetate) to provide {5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}methanol as a yellow solid (7.9 g, 30.2 mmol, 79% yield). 1H NMR (400 MHz, CDCl3): δ 7.44-7.32 (m, 5H), 6.69-6.63 (m, 2H), 5.08 (s, 2H), 4.67 (d, 2H), 3.86 (s, 3H).

reactant | Iodomethane | 382 mmol, 24 mL | IC | CH3I
reactant | cesium carbonate | 76.4 mmol, 25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluoro-2-(hydroxymethyl)-6-[(phenylmethyl)oxy]phenol | 38.2 mmol, 9.5 g | FC1=CC(=C(C(=C1)OCC1=CC=CC=C1)O)CO | C14H13FO3
reactant | water | O | H2O
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
product | {5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}methanol | 30.2 mmol, 7.9 g, 79% yield | FC=1C=C(C(=C(C1)CO)OC)OCC1=CC=CC=C1 | C15H15FO3
